US09145414B2
Tert-butyl((3R,4R)-4-aminotetrahydro-2H-pyran-3-yl)carbamate (26 mg) and diisopropylethylamine (0.050 ml) were added to a solution of ethyl 3-chloro-5-(benzo[b]thiophen-4-ylamino)-1,2,4-triazine-6-carboxylate obtained in the above-described Step 1 (34 mg) in THF (1 mL), and the reaction solution was stirred at 80° C. for 30 minutes. The solvent was evaporated under vacuum, and the resultant residue was purified by column chromatography on silica gel (developing solvent:hexane-ethyl acetate) to obtain ethyl 5-(benzo[b]thiophen-4-ylamino)-3-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-1,2,4-triazine-6-carboxylate.

reactant | Tert-butyl((3R,4R)-4-aminotetrahydro-2H-pyran-3-yl)carbamate | 26 mg | C(C)(C)(C)OC(N[C@H]1COCC[C@H]1N)=O | C10H20N2O3
reactant | diisopropylethylamine | 0.050 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl 3-chloro-5-(benzo[b]thiophen-4-ylamino)-1,2,4-triazine-6-carboxylate | ClC=1N=NC(=C(N1)NC1=CC=CC=2SC=CC21)C(=O)OCC | C14H11ClN4O2S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | ethyl 5-(benzo[b]thiophen-4-ylamino)-3-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-1,2,4-triazine-6-carboxylate | S1C2=C(C=C1)C(=CC=C2)NC=2N=C(N=NC2C(=O)OCC)N[C@H]2[C@H](COCC2)NC(=O)OC(C)(C)C | C24H30N6O5S
